US08541448B2
Into a 250-mL round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed a solution of tert-butyl 3-(2-(2-(2-(tosyloxy)ethoxy)ethoxy)ethoxy)propanoate (13.4 g, 30.98 mmol, 1.00 equiv) in anhydrous DMF (100 mL) followed by potassium phthalimide (7.5 g, 40.49 mmol, 1.31 equiv). The resulting solution was heated to 100° C. and stirred for 3 h. The reaction progress was monitored by LCMS. The DMF was removed under vacuum to afford a brown oil residue. To the residue was added 200 mL water and the mixture was extracted with 3×50 mL of ethyl acetate. The combined organic layers were washed with saturated brine and dried over anhydrous sodium sulfate. After evaporation of solvent. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (0˜1:3). The solvent was removed from fractions containing phthalimide and the residue was washed with 20% ethyl acetate/petroleum ether to yield 10.1 g (78%) of tert-butyl 3-(2-(2-(2-(1,3-dioxoisoindolin-2-yl)ethoxy)ethoxy)ethoxy)propanoate as pale yellow oil.

reactant | tert-butyl 3-(2-(2-(2-(tosyloxy)ethoxy)ethoxy)ethoxy)propanoate | 30.98 mmol, 13.4 g, 1.00 equiv | S(=O)(=O)(C1=CC=C(C)C=C1)OCCOCCOCCOCCC(=O)OC(C)(C)C | C20H32O8S
reactant | potassium phthalimide | 40.49 mmol, 7.5 g, 1.31 equiv | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | water | 200 mL | O | H2O
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | tert-butyl 3-(2-(2-(2-(1,3-dioxoisoindolin-2-yl)ethoxy)ethoxy)ethoxy)propanoate | 10.1 g, 78% | O=C1N(C(C2=CC=CC=C12)=O)CCOCCOCCOCCC(=O)OC(C)(C)C | C21H29NO7
